US05491200
3,5-Bis(4-nitrophenoxy)benzoyl caprolactam
A solution of ε-caprolactam (14.82 g, 0.131 mol) in 400 ml of benzene is added to the above reactor containing 0.131 mol of 3,5-bis(4-nitrophenoxy)benzoyl chloride. The mixture is heated to 80°-90° C., and after all the reactants are dissolved, 150 ml of pyridine is added. The solution is stirred at 90° C. for 3 hours and the pyridine/acid chloride salt removed by filtration, the filtrate being kept in a freezer. White crystals formed from the filtrate are collected by filtration and dried. In order to remove traces of the 3,5-bis(4-nitrophenoxy)benzoic acid, the product is further purified by chromatography using silica gel as filler and ethyl acetate as eluate to yield 65 percent of white crystals: mp 157°-158° C.

reactant | ε-caprolactam | 0.131 mol, 14.82 g | C1(CCCCCN1)=O | C6H11NO
reactant | 3,5-bis(4-nitrophenoxy)benzoyl chloride | 0.131 mol | [N+](=O)([O-])C1=CC=C(OC=2C=C(C(=O)Cl)C=C(C2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H11ClN2O7
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 3,5-Bis(4-nitrophenoxy)benzoyl caprolactam | 65 percent | [N+](=O)([O-])C1=CC=C(OC=2C=C(C(=O)C3C(=O)NCCCC3)C=C(C2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C25H21N3O8
